US05721219
a) N-Ethyl-2-(propylthio)adenosine
9-(2,3,5-Tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-(propylthio)purine (1.3 g) and ethylamine (1.6 ml) in dioxane (30 ml) and water (30 ml) were heated in a sealed autoclave at 110° for 20 hours. On cooling to room temperature, evaporation gave a residue which was recrystallised from ethyl acetate. Further purification by chromatography (SiO2, methanol:ethyl acetate, 1:15 as eluant) gave the sub-title compound (0.46 g).

reactant | 9-(2,3,5-Tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-(propylthio)purine | 1.3 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)SCCC | C19H23ClN4O7S
reactant | ethylamine | 1.6 ml | C(C)N | C2H7N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | N-Ethyl-2-(propylthio)adenosine | 0.46 g | C(C)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=C(N1)SCCC | C15H23N5O4S
